US05981533
3-(4-Amino-benzylamino)-2-cyano-3-methylmercapto-acrylonitrile
A mixture of 17.03 g (0.1 mol) of 3,3-bis-methylmercapto-2-cyano-acrylonitrile, 11.34 ml (0.1 mol) of 4-amino-benzylamine (Aldrich) and 60 ml of ethanol is stirred at 50° C. for 2 hours and then concentrated by evaporation in vacuo. Purification of the residue by flash chromatography on silica gel having a particle size of 0.04-0.06 mm using toluene/isopropanol mixtures (49:1, 97:3, 24:1 and 9:1) yields the title compound; m.p. 100-102° C.

reactant | 3,3-bis-methylmercapto-2-cyano-acrylonitrile | 0.1 mol, 17.03 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 4-amino-benzylamine | 0.1 mol, 11.34 ml | NC1=CC=C(CN)C=C1 | C7H10N2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(4-Amino-benzylamino)-2-cyano-3-methylmercapto-acrylonitrile | NC1=CC=C(CNC(=C(C#N)C#N)SC)C=C1 | C12H12N4S
